US06262089B1
a) (E)-(R)-1-[6-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl)-6-oxo-hex-3-enoyl]-pyrrolidine-2-carboxylic acid tert-butyl ester
Using General Procedure A with 1.5 g (8.76 mmol) D-Proline tert-butyl ester and 630 mg (4.37 mmol) trans-3-hexenedioic acid afforded, after flash chromatography (10% EtOH in EtOAc), 1.59 g (77%) of the title compound as a white crystalline solid. MS m/e (%): 568 (M+NH4+, 35), 451 (M+H+, 100), 395 ([M+H−C3H8]+, 32), 339 ([M+H−2C3H8]+, 40).

reactant | D-Proline tert-butyl ester | 8.76 mmol, 1.5 g | C(C)(C)(C)OC([C@@H]1NCCC1)=O | C9H17NO2
reactant | trans-3-hexenedioic acid | 4.37 mmol, 630 mg | C(C\C=C\CC(=O)O)(=O)O | C6H8O4
reactant | EtOH | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-(R)-1-[6-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl)-6-oxo-hex-3-enoyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 1.59 g, 77% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C\C=C\CC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C24H38N2O6
